US08247421B2
2-(phenylthio)-4-(5-(trifluoromethyl)-1H-pyrrolo[2,3-b]pyridin-3-yl)pyrimidine-5-carbonitrile
2-(methylsulfonyl)-4-(1-tosyl-5-(trifluoromethyl)-1H-pyrrolo[2,3-b]pyridin-3-yl)pyrimidine-5-carbonitrile (75 mg, 0.15 mmol) was heated with benzenethiol (31 uL, 0.30 mmol, 2.0Eq.) and DIPEA (78 uL, 0.45 mmol, 3.0Eq.) in THF (2 mL) under microwave conditions at 100° C. for 10 minutes. A solution of LiOH.H2O (32 mg, 0.75 mmol, 5.0Eq.) in water (1 mL) was added to the mixture and the reaction left to stir for 90 minutes. The reaction was partitioned between EtOAc and water and the aqueous phase extracted with EtOAc. The combined organic layers were dried (Na2SO4) and concentrated in vacuo. The resultant solid was purified by column chromatography (ISCO Companion™, 12 g column, 0-30% EtOAc/Petroleum Ether) and lyophilized to give the title compound as a pale yellow solid (28 mg, 47% over 2 steps).

reactant | 2-(methylsulfonyl)-4-(1-tosyl-5-(trifluoromethyl)-1H-pyrrolo[2,3-b]pyridin-3-yl)pyrimidine-5-carbonitrile | 0.15 mmol, 75 mg | CS(=O)(=O)C1=NC=C(C(=N1)C1=CN(C2=NC=C(C=C21)C(F)(F)F)S(=O)(=O)C2=CC=C(C)C=C2)C#N | C21H14F3N5O4S2
reactant | benzenethiol | 0.30 mmol, 31 uL, 2.0Eq. | C1(=CC=CC=C1)S | C6H6S
reactant | DIPEA | 0.45 mmol, 78 uL, 3.0Eq. | CCN(C(C)C)C(C)C | C8H19N
reactant | LiOH.H2O | 0.75 mmol, 32 mg, 5.0Eq. | O[Li].O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | water | 1 mL | O | H2O
product | 2-(phenylthio)-4-(5-(trifluoromethyl)-1H-pyrrolo[2,3-b]pyridin-3-yl)pyrimidine-5-carbonitrile | 28 mg, 47% | C1(=CC=CC=C1)SC1=NC=C(C(=N1)C1=CNC2=NC=C(C=C21)C(F)(F)F)C#N | C19H10F3N5S
